US07378418B2
Preparation of (R)-7,8-Bis(4-chlorophenyl)-2-(2-(3-chlorophenyl)-2-hydroxyethyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a stirred solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (20 mg, 0.06 mmol) prepared as described in Example 1, in 0.25 mL of DMF was added R-(+)-3-chlorostyrene oxide (0.007 mL, 0.06 mmol) and 15 mg of K2CO3. The resulting red solution was heated to 60° C. for 19 h and, upon cooling to RT, the mixture was diluted with 5 mL of ethyl acetate and 5 mL of 1N HCl. The layers were separated, and the organic layer was washed with 5 mL of saturated aqueous NaCl. The organic layer was dried over MgSO4, filtered and evaporated to give a yellow oil. The material was purified using reverse-phase HPLC to give the title compound, (R)-7,8-bis(4-chlorophenyl)-2-(2-(3-chlorophenyl)-2-hydroxyethyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (15 mg, 52% yield) as a yellow solid. HRMS Anal. Calc'd for C25H17Cl3N4O2, 510.04, [M+H]+=511.0509 observed. 1H NMR (400 MHz, CDCl3) δ 8.01 (s, 1H), 7.16 (s, 1H), 7.15-7.05 (m, 9H), 6.92 (d, 2H, J=8.6 Hz), 5.05-4.95 (m, 1H), 4.13-4.08 (m, 2H), 1.55 (br s, 1H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.06 mmol, 20 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | K2CO3 | 15 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 0.25 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | HCl | 1N, 5 mL | Cl | ClH
product | (R)-7,8-bis(4-chlorophenyl)-2-(2-(3-chlorophenyl)-2-hydroxyethyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 15 mg, 52% yield | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)C[C@H](O)C2=CC(=CC=C2)Cl)=O)C2=CC=C(C=C2)Cl | C25H17Cl3N4O2
